US05026856
To 160 ml of methanol cooled to -10° C. was dropwise added 46.4 ml of thionyl chloride while stirring. To the solution was added a mixture of 24 g of 2,3-dimethyl benzoic acid and 1 ml of DMF, and the mixture was stirred at room temperature for 4 days. After concentration, the residue was dissolved in ether. The solution was washed with water, 5% sodium carbonate, and water in this order. The solvent was evaporated and the residue was purified by vacuum distillation to obtain 25.1 g of methyl 2,3-dimethylbenzoate.

reactant | methanol | 160 ml | CO | CH4O
reactant | thionyl chloride | 46.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,3-dimethyl benzoic acid | 24 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | methyl 2,3-dimethylbenzoate | 25.1 g | CC1=C(C(=O)OC)C=CC=C1C | C10H12O2
